US05962685
Synthesis of 4-(2-propyl)-5-ethoxy-2-[2-chloro-6-(4,6-dimethoxypyrimidine-2-yloxy)phenyl]oxazole (Compound No. 1-45)
5 ml DMF solution containing 0.27 g 4-(2-propyl)-5-ethoxy-2-(2-chloro-6-hydroxyphenyl)oxazole, 0.20 g 2-methanesulfonyl-4,6-dimethoxypyrimidine and 0.41 g pottasium carbonate was stirred for 3 hours at 60° C. After completing the reaction, the solution reacted was poured into ice water and then extracted with ethyl acetate. The organic layer obtained was washed with water and saturated saline solution in turn and was then dried by using anhydrous magnesium sulfate, and the solvent used was removed by distillation under reduced pressure. The residue obtained was purified by using silica gel column chromatography, affording the objective oily substance in an amount of 0.3 g.

reactant | 4-(2-propyl)-5-ethoxy-2-(2-chloro-6-hydroxyphenyl)oxazole | 0.27 g | CC(C)C=1N=C(OC1OCC)C1=C(C=CC=C1O)Cl | C14H16ClNO3
reactant | 2-methanesulfonyl-4,6-dimethoxypyrimidine | 0.20 g | CS(=O)(=O)C1=NC(=CC(=N1)OC)OC | C7H10N2O4S
reactant | carbonate | 0.41 g | C([O-])([O-])=O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(2-propyl)-5-ethoxy-2-[2-chloro-6-(4,6-dimethoxypyrimidine-2-yloxy)phenyl]oxazole | CC(C)C=1N=C(OC1OCC)C1=C(C=CC=C1OC1=NC(=CC(=N1)OC)OC)Cl | C20H22ClN3O5
